US05886178
n-BuLi (1.6M, 76 ml) was added dropwise to a solution of 2,4-dichlorotoluene (16.7 ml, 121 mmol) in dry THF (125 ml) at -78° C. under a nitrogen atmosphere. After 1 h a solution of N-methoxy-N-methyl-4-chlorobenzamide (24.26 g, 1 eq.) in dry THF (50 ml) was added slowly to the reaction mixture and the stirring was continued for an additional 1 h. The reaction was then quenched with 1M NH4Cl, and allowed to room temperature. The solvent was removed in vacuo and the resulting mixture was diluted with ether. The organic layer was separated, washed with 1M NH4Cl, water, and brine, and dried over MgSO4. The solvent was removed in vacuo to give an oil, which upon crystallization from hexanes gave 3-(4-chlorobenzoyl)-2,4-dichlorotoluene (19.98 g) as white crystals, mp 132.0°-135.8° C.

reactant | n-BuLi | 1.6M, 76 ml | [Li]CCCC
reactant | 2,4-dichlorotoluene | 121 mmol, 16.7 ml | ClC1=C(C=CC(=C1)Cl)C | C7H6Cl2
reactant | N-methoxy-N-methyl-4-chlorobenzamide | 24.26 g, 1 eq. | CON(C(C1=CC=C(C=C1)Cl)=O)C | C9H10ClNO2
solvent | THF | 125 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(4-chlorobenzoyl)-2,4-dichlorotoluene | 19.98 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2Cl)C)Cl)C=C1 | C14H9Cl3O
